US08445480B2
Step C: 4-Hydroxy-3-(trifluoromethoxy)benzonitrile
To a solution of 4-hydroxy-3-(trifluoromethoxy)benzamide (532 mg, 2.41 mmol) in dimethylformamide (3 ml) was added cyanuric chloride (223 mg, 1.21 mmol). The mixture was stirred for 25 and then water was added and the resulting solution was extracted 3 times with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford the title compound. Mass spectrum (ESI) 202.1 (M−1).

reactant | 4-hydroxy-3-(trifluoromethoxy)benzamide | 2.41 mmol, 532 mg | OC1=C(C=C(C(=O)N)C=C1)OC(F)(F)F | C8H6F3NO3
reactant | cyanuric chloride | 1.21 mmol, 223 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-Hydroxy-3-(trifluoromethoxy)benzonitrile | OC1=C(C=C(C#N)C=C1)OC(F)(F)F | C8H4F3NO2
